US04945090
(a) 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxamide
2.7 g of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid is added to a solution of 30 mmol of thionyldiimidazole in 150 ml of tetrahydrofuran. The reaction mixture is stirred for 5 hours and filtered. The filtrate is mixed with 12 ml of 25% NH3 in water, stirred overnight and concentrated in a vacuum to 50 ml. After addition of 100 ml of water, 2 g of the desired product is obtained as yellow crystals.

reactant | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid | 2.7 g | O(C1=CC=CC=C1)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)O)COC | C20H16N2O4
reactant | thionyldiimidazole | 30 mmol | S(=O)(C=1NC=CN1)C=1NC=CN1 | C6H6N4OS
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxamide | 2 g | O(C1=CC=CC=C1)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)N)COC | C20H17N3O3
